US09120761B2
(e) tert-Butyl 4-(3-methoxy-4-((4-(2-(2-methoxy-2-oxoethyl)phenethyl)-5-(trifluoromethyl)pyrimidin-2-yl)amino)phenyl)piperazine-1-carboxylate (I6)
To a solution of tert-butyl 4-(3-methoxy-4-((4-((2-(2-methoxy-2-oxoethyl)phenyl)ethynyl)-5-(trifluoromethyl)pyrimidin-2-yl)amino)phenyl)piperazine-1-carboxylate (I5) (0.358 g, 0.572 mmol) in ethyl acetate (25 mL) and dimethylformamide (5 mL) was added 10% Pd/C (0.200 g). The mixture was evacuated and backfilled three times with hydrogen gas then stirred under a hydrogen atmosphere for 18 hours. The reaction mixture was filtered through a plug of Celite, washing with ethyl acetate then the filtrate was evaporated in vacuo and dried under high vacuum to give the title compound (I6) (0.360 g, 100%) as a viscous yellow oil; 1H NMR (300 MHz, CDCl3) δ 1.48 (s, 9 H), 3.00-3.20 (m, 8 H), 3.59 (t, 4 H, J=4.8 Hz), 3.67 (s, 3 H), 3.75 (s, 2 H), 3.90 (s, 3 H), 6.55-6.57 (m, 2 H), 7.19-7.26 (m, 4 H), 7.75 (s, 1 H), 8.26 (d, 1 H, J=9.4 Hz) and 8.50 (s, 1 H). LCMS Method B: rt 6.55 min; m/z 630.5 [M+H]+.

reactant | tert-butyl 4-(3-methoxy-4-((4-((2-(2-methoxy-2-oxoethyl)phenyl)ethynyl)-5-(trifluoromethyl)pyrimidin-2-yl)amino)phenyl)piperazine-1-carboxylate | 0.572 mmol, 0.358 g | COC=1C=C(C=CC1NC1=NC=C(C(=N1)C#CC1=C(C=CC=C1)CC(=O)OC)C(F)(F)F)N1CCN(CC1)C(=O)OC(C)(C)C | C32H34F3N5O5
solvent | ethyl acetate | 25 mL | C(C)(=O)OCC | C4H8O2
solvent | dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
catalyst | Pd/C | 0.200 g | [Pd] | Pd
product | tert-Butyl 4-(3-methoxy-4-((4-(2-(2-methoxy-2-oxoethyl)phenethyl)-5-(trifluoromethyl)pyrimidin-2-yl)amino)phenyl)piperazine-1-carboxylate | COC=1C=C(C=CC1NC1=NC=C(C(=N1)CCC1=C(C=CC=C1)CC(=O)OC)C(F)(F)F)N1CCN(CC1)C(=O)OC(C)(C)C | C32H38F3N5O5
